US04160784
To a solution of p-chloroaniline (640 mg) in tetrachloroethane (5 ml), a solution of boron trichloride (640 mg) in tetrachloroethane (2.5 ml), benzonitrile (1 ml) and aluminum chloride (734 mg) are added under ice cooling, and the resultant mixture is refluxed for 6 hours. After cooling, the reaction mixture is mixed with 2 N hydrochloric acid (10 ml), heated at 70° to 80° C. for 20 minutes, and shaken with methylene chloride. The methylene chloride layer is evaporated to give a residue, to which 95% ethanol (5 ml) and 2 N sodium hydroxide (10 ml) are added. The mixture is refluxed for 1 hour to hydrolyze benzonitrile and shaken with methylene chloride. The methylene chloride layer is evaporated, and the residue is dissolved in benzene and chromatographed on a column of alumina, which is eluted with benzene. The benzene eluate affords 2-amino-5-chlorobenzophenone (486 mg), which is recrystallized from ether to give crystals melting at 99° C.

reactant | p-chloroaniline | 640 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | boron trichloride | 640 mg | B(Cl)(Cl)Cl | BCl3
reactant | aluminum chloride | 734 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2 N, 10 ml | Cl | ClH
reactant | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
reactant | benzonitrile | 1 ml | C(C1=CC=CC=C1)#N | C7H5N
solvent | tetrachloroethane | 5 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | tetrachloroethane | 2.5 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-amino-5-chlorobenzophenone | 486 mg | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
